US08975263B2
Methyl 1-(6-bromopyridin-2-yl)-D-prolinate
Triethylamine (1.91 mL, 13.7 mmol) and D-proline methyl hydrochloride (1.13 g, 6.84 mmol) were added to a solution of 2-bromo-6-fluoropyridine (802 mg, 4.55 mmol) in 1,4-dioxane (9 mL) at room temperature. The mixture thus obtained was stirred at the same temperature as above for 30 minutes, and then at 80° C. for 3 hours. Thereafter, triethylamine (951 uL, 6.84 mmol) was further added to the resulting solution at room temperature, and the mixture thus obtained was then stirred at 80° C. for 2 hours. Thereafter, water was added to the reaction solution, and the mixed solution was then extracted with ethyl acetate three times. The organic layer thus obtained was dried over anhydrous magnesium sulfate, and the solvent was then distilled away under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (hexane:ethyl acetate=9:1 to 1:1, v/v) to obtain the title compound (213 mg, yield: 16%).

reactant | Triethylamine | 13.7 mmol, 1.91 mL | C(C)N(CC)CC | C6H15N
reactant | D-proline methyl hydrochloride | 6.84 mmol, 1.13 g | CCl.N1[C@@H](C(=O)O)CCC1
reactant | 2-bromo-6-fluoropyridine | 4.55 mmol, 802 mg | BrC1=NC(=CC=C1)F | C5H3BrFN
reactant | triethylamine | 6.84 mmol, 951 uL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
product | Methyl 1-(6-bromopyridin-2-yl)-D-prolinate | 213 mg, yield: 16% | BrC1=CC=CC(=N1)N1[C@@H](C(=O)OC)CCC1 | C11H13BrN2O2
